US06509328B1
3-(3-Chloro-thiophen-2-yl)-3-oxo-propionic Acid Ethyl Ester
Prepared from 3-chloro-2-thiophenecarbonyl chloride[CAS-No. 86427-02-3] by reaction with ethyl malonate potassium salt with Et3N and MgCl2 in CH3CN according to general procedure H (method a). Obtained as a brown oil (6.84 g).

reactant | 3-chloro-2-thiophenecarbonyl chloride | ClC1=C(SC=C1)C(=O)Cl | C5H2Cl2OS
reactant | ethyl malonate potassium salt | [K+].C(CC(=O)[O-])(=O)OCC
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | MgCl2 | [Mg+2].[Cl-].[Cl-]
solvent | CH3CN | CC#N | C2H3N
product | 3-(3-Chloro-thiophen-2-yl)-3-oxo-propionic Acid Ethyl Ester | 6.84 g | C(C)OC(CC(=O)C=1SC=CC1Cl)=O | C9H9ClO3S
